US08278457B2
The title compound in Step 2 was prepared according to the general procedure for the synthesis of (1R,2R)-2-(4-bromophenoxy)cyclohexyl acetate in Example 7, except that trans-2-(4-bromo-3-fluorophenoxy)cyclopentanol was used instead of trans-2-(4-bromophenoxy)cyclohexanol. The less polar material from the chromatographic purification on silica gel provided (1R,2R)-2-(4-bromo-3-fluorophenoxy)cyclopentyl acetate as an oil. Yield: 6.42 g, 20.2 mmol, 48% over 2 steps. 1H NMR (400 MHz, CDCl3) δ 1.67-1.75 (m, 1H), 1.79-1.92 (m, 3H), 2.05-2.20 (m, 2H), 2.08 (s, 3H), 4.60 (m, 1H), 5.14 (m, 1H), 6.66 (ddd, J=8.9, 2.8, 1.1 Hz, 1H), 6.78 (dd, J=10.5, 2.8 Hz, 1H), 7.40 (dd, J=8.8, 8.1 Hz, 1H).

reactant | (1R,2R)-2-(4-bromophenoxy)cyclohexyl acetate | C(C)(=O)O[C@H]1[C@@H](CCCC1)OC1=CC=C(C=C1)Br | C14H17BrO3
reactant | trans-2-(4-bromo-3-fluorophenoxy)cyclopentanol | BrC1=C(C=C(O[C@H]2[C@@H](CCC2)O)C=C1)F | C11H12BrFO2
product | (1R,2R)-2-(4-bromo-3-fluorophenoxy)cyclopentyl acetate | C(C)(=O)O[C@H]1[C@@H](CCC1)OC1=CC(=C(C=C1)Br)F | C13H14BrFO3
